US07342115B2
A solution of LiAlH4 (1 M in THF, 15 mL) is added dropwise to a solution of 6-(2,6-diethyl-phenyl)-4-methoxy-nicotinic acid methyl ester (1.5 g, 5 mmol) in THF (10 mL). The reaction mixture is stirred at room temperature for 6 hours, then diluted with ether (10 mL) and quenched with Na2SO4.10H2O (10 g). The resulting mixture is stirred for one hour, filtered through celite and concentrated to give [6-(2,6-diethyl-phenyl)-4-methoxy-pyridin-3-yl]-methanol. 1H NMR (CDCl3) 8.47 (s, 1H), 7.28 (t, 1H), 7.13 (d, 2H), 6.79 (s, 1H), 4.72 (s, 2H), 3.89 (s, 3H), 2.55 (br, 1H), 2.34 (m, 4H), 1.06 (t, 6H).

reactant | LiAlH4 | 1 M, 15 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 6-(2,6-diethyl-phenyl)-4-methoxy-nicotinic acid methyl ester | 5 mmol, 1.5 g | COC(C1=CN=C(C=C1OC)C1=C(C=CC=C1CC)CC)=O | C18H21NO3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ether | 10 mL | CCOCC | C4H10O
product | [6-(2,6-diethyl-phenyl)-4-methoxy-pyridin-3-yl]-methanol | C(C)C1=C(C(=CC=C1)CC)C1=CC(=C(C=N1)CO)OC | C17H21NO2
